US06100275
3-(4-Methoxyphenyl)-8-methyl-8-azabicyclo[3.2.1]octan-3-ol
The title compound was prepared from 4-bromoanisole (15.1 g, 80.5 mmol), n-butyllithium in hexanes (31.2 mL, 2.5 M; 77.9 mmol) and 8-methyl-8-azabicyclo-[3.2.1]octan-3-one (5 g, 36 mmol) in anhydrous tetrahydrofuran (40 mL). Yield 2.1 g (24%), m.p. 161.8-162.3° C.

reactant | 4-bromoanisole | 80.5 mmol, 15.1 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | n-butyllithium | C(CCC)[Li]
reactant | 8-methyl-8-azabicyclo-[3.2.1]octan-3-one | 36 mmol, 5 g | CN1C2CC(CC1CC2)=O | C8H13NO
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 3-(4-Methoxyphenyl)-8-methyl-8-azabicyclo[3.2.1]octan-3-ol | COC1=CC=C(C=C1)C1(CC2CCC(C1)N2C)O | C15H21NO2
